US08013156B2
To a round bottom flask equipped with a magnetic stir bar was added 4-(4-chloro-[1,2,5]thiadiazol-3-yl)-piperazine (7.8 g, 32.6 mmol, 1.0 eq.), dry CH2Cl2 (130 mL), triethyl amine (11.66 g, 16 mL, 115.2 mmol, 3.5 eq). To this mixture cooled in an ice bath was added 1-isocyanato-3,5-bis-trifluoromethyl-benzene (11.6 g, 7.9 ml, 45 mmol, 1.4 eq.) dissolved in dry CH2Cl2 (20 mL) dropwise. The resulting mixture was allowed to warm up to room temperature with stirring. After stirring for 3 hour, the reaction mixture was diluted with EtOAc. This solution was then washed with aqNaHCO3, and brine. The organic layer was dried with Na2SO4, concentrated. The residue was purified by column chromatography using acetate/hexane (1:1 to 3:1), affording 4-(4-Chloro-[1,2,5]thiadiazol-3-yl)-piperazine-1-carboxylic acid (3,5-bis-trifluoromethyl-phenyl)-amide (11.8 g, 79% yield) as a solid.

reactant | 4-(4-chloro-[1,2,5]thiadiazol-3-yl)-piperazine | 32.6 mmol, 7.8 g, 1.0 eq. | ClC=1C(=NSN1)N1CCNCC1 | C6H9ClN4S
reactant | triethyl amine | 115.2 mmol, 16 mL, 11.66 g, 3.5 eq | C(C)N(CC)CC | C6H15N
reactant | 1-isocyanato-3,5-bis-trifluoromethyl-benzene | 45 mmol, 7.9 ml, 11.6 g, 1.4 eq. | N(=C=O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C9H3F6NO
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 130 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-Chloro-[1,2,5]thiadiazol-3-yl)-piperazine-1-carboxylic acid (3,5-bis-trifluoromethyl-phenyl)-amide | 11.8 g, 79% yield | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=O)N1CCN(CC1)C1=NSN=C1Cl)(F)F | C15H12ClF6N5OS
